US06156700
Preparation of 3-{3-[Bromo(phenylsulfonyl)methyl]-1,2-benzisothiazol-5-yl}-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
To a solution of 3-[3-(phenylsulfonyl)methyl-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (0.400 g, 0.000831 mol) in ethyl acetate is added 48% hydrobromic acid (4 drops) followed by bromine in ethyl acetate (0.522 M, 1.67 ml, 0.000872 mol). The resultant mixture is stirred 1.5 hours at reflux. Additional bromine in ethyl acetate (1.67 ml) is added and the resultant mixture is stirred one hour at reflux. The mixture is cooled to room temperature, diluted with ethyl acetate, washed sequentially with 0.1 M sodium sulfite, saturated sodium bicarbonate and brine, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The residue is chromatographed on silica gel with hexanes:ethyl acetate to give the title compound as a white crystalline solid (0.420 g, 90.1%, mp 182-183° C.) which is identified by NMR spectral analysis.

reactant | 3-[3-(phenylsulfonyl)methyl-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.000831 mol, 0.400 g | C1(=CC=CC=C1)S(=O)(=O)CC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C20H14F3N3O4S2
reactant | bromine | BrBr | Br2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | hydrobromic acid | 4 drops | Br | BrH
solvent | ethyl acetate | 1.67 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.000872 mol, 0.522 M, 1.67 ml | C(C)(=O)OCC | C4H8O2
product | 3-{3-[Bromo(phenylsulfonyl)methyl]-1,2-benzisothiazol-5-yl}-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.420 g, 90.1% | BrC(C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)S(=O)(=O)C2=CC=CC=C2 | C20H13BrF3N3O4S2
